US07199136B2
4-{[3-Methoxy-5-(trifluoromethyl)phenyl]amino}-3-penten-2-one
1.57 g (15.7 mmol) Acetylacetone, 3.00 g (15.7 mmol) 3-methoxy-5-(trifluoromethyl)aniline, and 0.1 g (1.6 mmol) 4-toluenesulfonic acid are dissolved in 150 ml toluene. The reaction mixture is refluxed for 7 h with a Dean-Stark trap to remove water. After cooling down to room temperature, the suspension is filtered. The solid is purified by recrystallisation from ethanol.

reactant | Acetylacetone | 15.7 mmol, 1.57 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | 3-methoxy-5-(trifluoromethyl)aniline | 15.7 mmol, 3.00 g | COC=1C=C(N)C=C(C1)C(F)(F)F | C8H8F3NO
reactant | 4-toluenesulfonic acid | 1.6 mmol, 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-{[3-Methoxy-5-(trifluoromethyl)phenyl]amino}-3-penten-2-one | COC=1C=C(C=C(C1)C(F)(F)F)NC(=CC(C)=O)C | C13H14F3NO2
